US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-chloro-4-[(2S)-2-aminomethylpyrrolidin-1-ylcarbonyl]benzamide
Prepared analogously to Example 17 from N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide and trifluoroacetic acid. Yield: quantitative; Rf value: 0.06 (silica gel; dichloromethane/methanol/ammonia=9:1:0.1); C24H27Cl2N5O2 (488.42); mass spectrum: (M+H)+=488/490/492 (chlorine isotope).

reactant | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCC)NC(C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CNC(=O)OC(C)(C)C)Cl)=O)C=C1 | C29H35Cl2N5O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
reactant | chlorine | ClCl | Cl2
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-chloro-4-[(2S)-2-aminomethylpyrrolidin-1-ylcarbonyl]benzamide | Yield: quantitative | ClC1=CC2=C(NC(=N2)[C@H](CCC)NC(C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CN)Cl)=O)C=C1 | C24H27Cl2N5O2
